US05856309
5.28 g (40 mmol) dimethyl malonate were cautiously added to an ice-cooled suspension of 864 mg (36 mmol) sodium hydride in 80 ml THF. The resulting clear solution was added to a solution of 4.82 g (20 mmol) 3-acetoxymethyl-2,5-dihydro-pyrrole-1-carboxylic acid tert.-butylester and 462 mg (0.4 mmol) Pd(PPh3)4 in 40 ml THF and the mixture was heated to reflux for 20 h. The reaction mixture was cooled to room temperature, diluted with ether and quenched with sat. NH4Cl. The organic layer was washed with sat. NH4Cl and brine, dried over MgSO4 and evaporated. The residue was purified by flash chromatography (ethyl acetate/petrol ether 4:1 to 2:1) and bulb-to-bulb distilled to yield 4.86 g (77%) of 2(1-tert.-butoxycarbonyl-2,5-dihydro-1H-pyrrol-3 -yl-methyl)-malonic acid dimetylester as a colorless oil, b.p. 130° C./0.2 mbar.

reactant | dimethyl malonate | 40 mmol, 5.28 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 36 mmol, 864 mg | [H-].[Na+]
reactant | 3-acetoxymethyl-2,5-dihydro-pyrrole-1-carboxylic acid tert.-butylester | 20 mmol, 4.82 g | C(C)(C)(C)OC(=O)N1CC(=CC1)COC(C)=O | C12H19NO4
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | Pd(PPh3)4 | 0.4 mmol, 462 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2(1-tert.-butoxycarbonyl-2,5-dihydro-1H-pyrrol-3 -yl-methyl)-malonic acid dimetylester | 4.86 g, 77% | COC(C(C(=O)OC)CC=1CN(CC1)C(=O)OC(C)(C)C)=O | C15H23NO6
